US04806145
A stirred mixture of 4.0 g (0.012 mole) of 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3-difluoromethyl-4,5-dihydro-1,2,4-triazol-5(1H)-one and 4.1 g (0.03 mole) of potassium carbonate in 160 mL of acetone was heated at reflux for 0.5 hours then cooled to about 50° C. Methyl iodide, 8.4 g (0.06 mole), was added and the mixture stirred at 45° for one hour then at reflux for one hour. The mixture was cooled to room temperature and evaporated under reduced pressure to leave an oil. This oil was partitioned between methylene chloride and water. The organic phase was washed with a 10% aqueous sodium hydroxide solution and then dried over anhydrous magnesium sulfate. The mixture was filtered and the filtrate evaporated under reduced pressure to leave an oil. This oil solidified when stirred with petroleum ether and upon filtration provided 2.6 g of 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4 -triazol-5-(1H)-one (mp 95°-97° C).

reactant | 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3-difluoromethyl-4,5-dihydro-1,2,4-triazol-5(1H)-one | 0.012 mole, 4.0 g | ClC1=C(C=C(C(=C1)Cl)OC(C)C)N1N=C(NC1=O)C(F)F | C12H11Cl2F2N3O2
reactant | potassium carbonate | 0.03 mole, 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | CI | CH3I
solvent | acetone | 160 mL | CC(=O)C | C3H6O
product | 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3-difluoromethyl-4,5-dihydro-4-methyl-1,2,4 -triazol-5-(1H)-one | 2.6 g | ClC1=C(C=C(C(=C1)Cl)OC(C)C)N1N=C(N(C1=O)C)C(F)F | C13H13Cl2F2N3O2
